US08314098B2
(Step 1): 3-Bromo-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in methylene chloride (2 mL), 5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (100 mg, 0.419 mM), then N-bromo-succinimide (78.8 mg, 0.443 mM) was added to the solution and the mixture was stirred at room temperature for one hour. This reaction liquid was diluted with a saturated aqueous sodium bicarbonate solution and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate and the solvent was then distilled off. The resulting residue was purified by the silica gel column chromatography (methylene chloride) to thus give the title compound (80.7 mg, yield: 61%).

reactant | 5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.419 mM, 100 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=CC2 | C10H11ClN4O
reactant | N-bromo-succinimide | 0.443 mM, 78.8 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-Bromo-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 80.7 mg, yield: 61% | BrC=1C=NN2C1N=C(C=C2N2CCOCC2)Cl | C10H10BrClN4O
